US06730681B2
3-(2-Fluorophenyl)-5-(piperazin-1-yl)-[1,2,3]triazolo[1,5-α]quinazoline (0.10 g, 0.26 mmol), 1-(2-chloroethyl)pyrrolidine hydrochloride (0.088 g, 0.52 mmol) and triethylamine (0.18 ml, 1.3 mmol) were dissolved in N,N-dimethylformamide (4 ml) and stirred at 80° C. under nitrogen for 18 h. The mixture was cooled, then diluted with water (20 ml) and extracted with CH2Cl2 (2×50 ml). The combined organics were washed with brine (20 ml), dried over MgSO4 and evaporated to give a brown oil. Purification by preparative thin layer chromatography eluting with CH2Cl2:MeOH:NH3(c) (92:8:0.8) gave 3-(2-fluorophenyl)-5-{4-[2-(pyrrolidin-1-yl)ethyl]piperazin-1-yl}-[1,2,3]triazolo[1,5-α]quinazoline as a white solid (0.055 g, 47%). Oxalate salt (EtOH): δH (400 MHz; DMSO) 1.87-1.98 (4H, m), 2.49-2.52 (6H, m, partly obscured by DMSO peak), 2.66-2.78 (6H, m), 3.30-3.35 (2H, m, partly obscured by H20 peak), 3.60-3.72 (2H, m), 7.33-7.39 (2H, m), 7.43-7.49 (1H, m), 7.77 (1H, ddd, J=8, 8 and 1), 8.05-8.13 (2H, m), 8.19 (1H, d, J=8), 8.59 (1H, dd, J=8 and 1); m/z (ES+) 446 (M+H+).

reactant | 3-(2-Fluorophenyl)-5-(piperazin-1-yl)-[1,2,3]triazolo[1,5-α]quinazoline | 0.26 mmol, 0.10 g | FC1=C(C=CC=C1)C=1N=NN2C1N=C(C1=CC=CC=C21)N2CCNCC2 | C19H17FN6
reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | 0.52 mmol, 0.088 g | Cl.ClCCN1CCCC1
reactant | triethylamine | 1.3 mmol, 0.18 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | 3-(2-fluorophenyl)-5-{4-[2-(pyrrolidin-1-yl)ethyl]piperazin-1-yl}-[1,2,3]triazolo[1,5-α]quinazoline | 0.055 g, 47% | FC1=C(C=CC=C1)C=1N=NN2C1N=C(C1=CC=CC=C21)N2CCN(CC2)CCN2CCCC2 | C25H28FN7
